US04757081
Synthesis of 1-(3,5-dimethoxyphenyl)-3-mehtyl-2,6-diphenyl-4(1H)-pyridinone
To 170 ml of chlorobenzene were added 4.2 g (0.015 mole) of 2-methyl-1,5-diphenyl-1,3,5-pentanetrione, 11.5 g (0.075 mole) of 3,5-dimethoxyaniline, 5.2 g (0.027 mole) of para-toluenesulfonic acid and 35.0 g of Molecular Sieves 5A, followed by refluxing the resulting mixture for 2 hours. After cooling the reaction mixture, solid matter was removed from the reaction mixture, followed by addition of 200 ml of chloroform thereto. The organic layer was washed first with 200 ml of 10% hydrochloric acid and then with 200 ml of a 10% aqueous solution of sodium hydroxide. The organic layer was washed further with water and was then dried over anhydrous sodium sulfate. Subsequent to removal of the sodium sulfate by filtration, the solvent was distilled off and the residue was subjected to chromatography on a silica gel column (eluent: ethyl acetate). Upon recrystallization of the resultant crystals from a 2:1 mixed solvent of acetone and hexane, 2.0 g of 1-(3,5-dimethoxyphenyl)-3-methyl-2,6-diphenyl-4(1H)-pyridinone having a melting point of 232°-236° C. was obtained.

reactant | 2-methyl-1,5-diphenyl-1,3,5-pentanetrione | 0.015 mole, 4.2 g | CC(C(=O)C1=CC=CC=C1)C(CC(=O)C1=CC=CC=C1)=O | C18H16O3
reactant | 3,5-dimethoxyaniline | 0.075 mole, 11.5 g | COC=1C=C(N)C=C(C1)OC | C8H11NO2
reactant | para-toluenesulfonic acid | 0.027 mole, 5.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | chlorobenzene | 170 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 1-(3,5-dimethoxyphenyl)-3-mehtyl-2,6-diphenyl-4(1H)-pyridinone | COC=1C=C(C=C(C1)OC)N1C(=C(C(C=C1C1=CC=CC=C1)=O)C)C1=CC=CC=C1 | C26H23NO3
